US07595398B2
Rac-cis -2-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]cyclopentanecarboxylic acid
Rac-cis-2-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-cyclopentanecarboxylic acid methyl ester (100 mg) was dissolved in THF:MeOH:H2O (2:2:1, 5 mL) and treated with LiOH (10 eq. 45 mg) and stirred at room temperature for 15 hours. The mixture was neutralized with HOAc, and the solvents removed. The resulting mixture was redissolved in 5 ml of 90% DMF, 10% water with 0.1% TFA and purified by reverse phase HPLC to give the product. MS: 400.5 (M+H+)

reactant | Rac-cis-2-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-cyclopentanecarboxylic acid methyl ester | 100 mg | COC(=O)[C@H]1[C@H](CCC1)C(NC=1SC=C(N1)C1=CC=C(C=C1)C(NC1CC1)=O)=O | C21H23N3O4S
reactant | LiOH | 45 mg, 10 eq | [Li+].[OH-]
reactant | HOAc | CC(=O)O | C2H4O2
solvent | THF MeOH H2O | 5 mL | C1CCOC1.CO.O
product | Rac-cis -2-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]cyclopentanecarboxylic acid | C1(CC1)NC(=O)C1=CC=C(C=C1)C=1N=C(SC1)NC(=O)[C@@H]1[C@@H](CCC1)C(=O)O | C20H21N3O4S
